US04643755
Preparation of 4-Bromo-2,6-dimethyl-N-nitroaniline
To a cooled (-60° C.) solution of 4-bromo-2,6-di-methylaniline (0.037 mole, 7.4 g) dissolved in anhydrous ether (100 ml) under nitrogen with stirring is added dropwise, phenyl lithium (21.5 ml, 0.040 mole). The solution is stirred for 1.5 hours at -60° C. The solution is allowed to warm to -10° C., then it is cooled to -60° C. The nitrogen flow is stopped while methyl nitrate (0.044 mole, 3.5 g) in anhydrous ether (25 ml) is added dropwise. The solution is stirred for 0.5 hour at -60° C., then it is allowed to warm to room temperature. The solution is stirred for 1.6 hours; the ether layer is evaporated. The solid is dissolved in water (250 ml), then is extracted with ether (2×100 ml). The cold water layer is acidified with 5% HCl. The precipitated product is filtered, washed with water, and dried in vacuo. Recrystallization from hot hexane yields 2.5 g of the desired product melting at 129°-131° C.

reactant | 4-bromo-2,6-di-methylaniline | 0.037 mole, 7.4 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | phenyl lithium | 0.040 mole, 21.5 ml | C1(=CC=CC=C1)[Li]
reactant | methyl nitrate | 0.044 mole, 3.5 g | [N+](=O)(OC)[O-] | CH3NO3
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 4-Bromo-2,6-dimethyl-N-nitroaniline | 2.5 g | BrC1=CC(=C(N[N+](=O)[O-])C(=C1)C)C | C8H9BrN2O2
